US05220020
4-(2-[2-thienyl]acetyl) morpholine (0.42 g, 2.0 mmol) was dissolved in C6H6 (4 mL) and then triethoxysilane (0.92 mL, 5.0 mmol) and titanium (IV) isopropoxide (0.03 mL, 0.1 mmol) were added. The reaction mixture was heated to 60 ° C. for 15 hours. The C6H6 was removed in vacuo and the resulting yellow solid was dissolved in warm (60° C.) hexane (4 mL). The hexane solution was cooled to room temperature, and yellow crystals appeared in the flask. The recrystallization flask was put in an acetone-filled dewar, which was cooled to -78° C. overnight. The hexane solution was decanted from the yellow crystals. The crystals were washed with cold hexane (3 mL) and recrystallized from hot (60° C.) hexane. The flask containing the crystals was put in an acetone-filled dewar, which was cooled to -78° C. The hexane was decanted and the crystals were washed with 2 portions of cold hexane (1 mL). The crystals were dried in vacuo and 0.28 g (74% yield) of 4-(2-[2-thienyl]ethenyl) morpholine, as yellow crystals, was collected.

reactant | 4-(2-[2-thienyl]acetyl) morpholine | 2.0 mmol, 0.42 g | S1C(=CC=C1)CC(=O)N1CCOCC1 | C10H13NO2S
reactant | triethoxysilane | 5.0 mmol, 0.92 mL | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | C6H6 | 4 mL | C1=CC=CC=C1 | C6H6
catalyst | titanium (IV) isopropoxide | 0.1 mmol, 0.03 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-(2-[2-thienyl]ethenyl) morpholine | 0.28 g, 74% yield | S1C(=CC=C1)C=CN1CCOCC1 | C10H13NOS
